US07645764B2
A suspension of potassium carbonate (0.56 g, 4.05 mmol), [5-(5-isobutyl-[1,3,4]oxadiazol-2-yl)-2-methyl-phenyl]-acetic acid (1.01 g, 3.68 mmol) and iodomethane (0.33 mL, 5.26 mmol) in N,N-dimethylformamide (10 mL) was stirred at room temperature for 2 days. The reaction mixture was partitioned between ethyl acetate and water. The combined organic phase was washed with water and brine, dried (magnesium sulfate), filtered and concentrated under reduced pressure. The residue was purified by flash chromatography eluting with 0-40% ethyl acetate in hexanes to give [5-(5-isobutyl-[1,3,4]oxadiazol-2-yl)-2-methyl-phenyl]-acetic acid methyl ester (Yield: 0.54 g, 51%).

reactant | potassium carbonate | 4.05 mmol, 0.56 g | C([O-])([O-])=O.[K+].[K+]
reactant | [5-(5-isobutyl-[1,3,4]oxadiazol-2-yl)-2-methyl-phenyl]-acetic acid | 3.68 mmol, 1.01 g | C(C(C)C)C1=NN=C(O1)C=1C=CC(=C(C1)CC(=O)O)C | C15H18N2O3
reactant | iodomethane | 5.26 mmol, 0.33 mL | IC | CH3I
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | [5-(5-isobutyl-[1,3,4]oxadiazol-2-yl)-2-methyl-phenyl]-acetic acid methyl ester | Yield: 0.54 g, 51% | COC(CC1=C(C=CC(=C1)C=1OC(=NN1)CC(C)C)C)=O | C16H20N2O3
